US03989680
Similarly 12.1 g. of 2,3-dimethylnitrobenzene was hydrogenated to 2,3-dimethylphenylhydroxylamine, which was oxidized with ferric chloride to the nitroso compound. This compound was treated with unsymmetrical dimethylhydrazine to yield 3,3-dimethyl-1-(2,3-dimethylphenyl)triazene-1-oxide.

reactant | 2,3-dimethylnitrobenzene | CC1=C(C=CC=C1C)[N+](=O)[O-] | C8H9NO2
reactant | 2,3-dimethylphenylhydroxylamine | CC1=C(C=CC=C1C)NO | C8H11NO
reactant | unsymmetrical dimethylhydrazine | CN(C)N | C2H8N2
product | 3,3-dimethyl-1-(2,3-dimethylphenyl)triazene-1-oxide | CN(N=[N+](C1=C(C(=CC=C1)C)C)[O-])C | C10H15N3O
